US05006548
1,3-Dihydro-3-oxo-1-isobenzofuranyl 2-[3-(2-thienyl)acrylamido]benzoate
A mixture of 2-[3-(2-thienyl)acrylamido]benzoic acid (273 mg, 1 mmol) and triethylamine (0.14 ml, 1 mmol) in dry acetone (10 ml) was stirred at room temperature for 30 minutes. A solution of 3-bromophtalide (213 mg, 1 mmol) in acetone (2 ml) was added under ice cooling, and the mixture was stirred at room temperature for 23 hours. The reaction mixture was filtered by suction, and the solvent was removed from the filtrate. The residue was dissolved in chloroform, washed with saturated aqueous sodium hydrogen carbonate, then with saturated aqueous sodium chloride, and dried over magnesium sulfate. The solvent was removed and the residue was purified by silica gel column chromatography (developing solvent: benzene:ether=49:1). The pale yellow second eluate was collected. After removing the solvent, the resulting oily product was crystallized with isopropyl ether to give the desired compound (159 mg, yield, 39%). m.p., 194°-195° C. (white crystals, recrystallized from benzene-n-hexane)

reactant | 2-[3-(2-thienyl)acrylamido]benzoic acid | 1 mmol, 273 mg | S1C(=CC=C1)C=CC(=O)NC1=C(C(=O)O)C=CC=C1 | C14H11NO3S
reactant | triethylamine | 1 mmol, 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | 3-bromophtalide | 1 mmol, 213 mg | BrC1OC(=O)C2=CC=CC=C12 | C8H5BrO2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 1,3-Dihydro-3-oxo-1-isobenzofuranyl 2-[3-(2-thienyl)acrylamido]benzoate | 159 mg, 39% | S1C(=CC=C1)C=CC(=O)NC1=C(C(=O)OC2OC(C3=CC=CC=C23)=O)C=CC=C1 | C22H15NO5S
